US07737141B2
Synthesis of (R)-1-[(3R,5R)-5-(4-chlorophenyl)-morpholine-3-yl]ethanol
To a solution of (3R,5R)-3-((R)-1-benzyloxyethyl)-5-(4-chlorophenyl)morpholine (1.44 g) in a dichloromethane (20 mL) was added trimethylsilyl iodide (3.07 mL), and the resultant solution was stirred at room temperature for 10 hours. To this solution was further added trimethylsilyl iodide (3.07 mL), and the mixture was stirred at room temperature for 4 days. To the solution was again added trimethylsilyl iodide (3.07 mL), and the mixture was stirred at room temperature for 1 day. To the solution was further added trimethylsilyl iodide (3.07 mL), and the reaction mixture was stirred at room temperature for 10 hours. The resultant solution was diluted with 5 N aqueous sodium hydroxide. The organic layer was partitioned and then dried over anhydrous magnesium sulfate. The resulting product was purified by silica gel column chromatography (heptane/ethyl acetate), to thereby obtain the titled compound (903 mg). The physical properties of this crude product were as follows.

reactant | (3R,5R)-3-((R)-1-benzyloxyethyl)-5-(4-chlorophenyl)morpholine | 1.44 g | C(C1=CC=CC=C1)O[C@H](C)[C@@H]1N[C@@H](COC1)C1=CC=C(C=C1)Cl | C19H22ClNO2
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
reactant | trimethylsilyl iodide | 3.07 mL | C[Si](C)(C)I | C3H9ISi
reactant | trimethylsilyl iodide | 3.07 mL | C[Si](C)(C)I | C3H9ISi
reactant | trimethylsilyl iodide | 3.07 mL | C[Si](C)(C)I | C3H9ISi
reactant | trimethylsilyl iodide | 3.07 mL | C[Si](C)(C)I | C3H9ISi
solvent | sodium hydroxide | 5 N | [OH-].[Na+]
product | (R)-1-[(3R,5R)-5-(4-chlorophenyl)-morpholine-3-yl]ethanol | 903 mg | ClC1=CC=C(C=C1)[C@@H]1COC[C@@H](N1)[C@@H](C)O | C12H16ClNO2
